US07304050B2
7-{7-[5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl}-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid
The title compound was prepared in a procedure analogous to that used in Example 6, using N-[2-Oxo-3-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl)-oxazolidin-5-ylmethyl]-acetamide (0.25 g) and 1-Cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid (0.23 g). The product was triturated with EtOH to purify. MS (APCI) AP+, 550. NMR (DMSO6)1.1 (m, 2H), 1.22 (m, 2H), 1.74 (s, 3H), 3.04 (m, 4H), 3.3 (m, 6H), 3.70 (m, 2H), 4.0 (m, 2H), 4.65 (m, 1H), 7.13 (d, 1H), 7.26 (dd, 1H), 7.35 (d, 1H), 8.0 (d, 1H), 8.14 (t, 1H), 8.52 (s, 1H).

reactant | N-[2-Oxo-3-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl)-oxazolidin-5-ylmethyl]-acetamide | 0.25 g | O=C1OC(CN1C1=CC2=C(CCNCC2)C=C1)CNC(C)=O | C16H21N3O3
reactant | 1-Cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | 0.23 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)F)F)=O)C(=O)O | C12H8F2N2O3
product | 7-{7-[5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl}-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid | C(C)(=O)NCC1CN(C(O1)=O)C1=CC2=C(CCN(CC2)C2=C(C=C3C(C(=CN(C3=N2)C2CC2)C(=O)O)=O)F)C=C1 | C28H28FN5O6
